US05663154
2-Amino-6-benzylamino-9H-purine (0.64 g, 2.7 mmoles) and 2',3'-dideoxy-3'-florouridine (0.50 g, 2.2 mmoles) were suspended in 50 ml 10 mM potassium phosphate buffer containing 0.04% potassium azide. After the pH was adjusted to 7.0, purified purine nucleoside phosphorylase (15,700 I.U.) and thymidine phosphorylase (4,000 I.U.) (Krenitsky, et al., Biochemistry, 20, 3615, 1981 and U.S. Pat. No. 4,381,344) were added to the reaction and the suspension was stirred at 45° C. After 24 hours, purine nucleoside phosphorylase (1120 I.U.) and thymidine phosphorylase immobilized onto 10 ml of DEAE-cellulose were added. After an additional two days, 150 ml of methanol was added to the reaction. The reaction was filtered through Celite and the filtrate was applied to an ionic exchange column (AG1-X2, 2.5×10 cm, OH-- form). After eluting the product with methano, fraction were combined and concentrated. The residue was then purified by flash chromatography on silica gel (5×20 cm column) with dichloromethane:methanol (95:5). Solvent was removed and lyophilization yielded 0.42 g of 2-amino-6-benzylamino-9-(2,3-dideoxy-3-fluoro-β-D-erythro-pentofuranosyl)-9H-purine (54%): mp 90°-94° C.; [α]D20 -16.2 (c=0.5, DMF); UV λmax (ε×10-3) at pH 7, 282 (17.5); at pH13, 282 (17.7); 1H NMR (300 MHz, DMSO-d6) δ7.95 (s, 1H, H8), 7.93 (b, 1H, NH), 7.28 (m, 5H, C6H5), 6.23 (dd, 1H, H1', J=9.4 Hz, J=5.6 Hz), 5.87 (b, 2H, NH2), 5.54 (t, 1H, OH5', J=5.7 Hz), 5.40 (dd, 1H, H3', J=53.7 Hz, J=4.2 Hz), 4.68 (b, 2H, CH2), 4.19 (dt, 1H, H4', J=27.2 Hz, J=4.4 Hz), 3.60 (m, 2H, H5' and H5"), 2.90 and 2.58 (m, 2H, H2' and H2"); MS (ci) 359 (M+1), 339 (M-F), 241 (MH2 --C5H8FO2).

reactant | 2-Amino-6-benzylamino-9H-purine | 2.7 mmoles, 0.64 g | NC1=NC(=C2N=CNC2=N1)NCC1=CC=CC=C1 | C12H12N6
reactant | 2',3'-dideoxy-3'-florouridine | 2.2 mmoles, 0.50 g | F[C@H]1C[C@@H](O[C@@H]1CO)N1C(=O)NC(=O)C=C1 | C9H11FN2O4
reactant | potassium azide | [N-]=[N+]=[N-].[K+]
solvent | potassium phosphate | 10 mM, 50 ml | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
product | 2-amino-6-benzylamino-9-(2,3-dideoxy-3-fluoro-β-D-erythro-pentofuranosyl)-9H-purine | 0.42 g, 54% | NC1=NC(=C2N=CN(C2=N1)[C@H]1C[C@@H]([C@H](O1)CO)F)NCC1=CC=CC=C1 | C17H19FN6O2
